US06740662B1
To a THF solution of 4-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]butanoic acid were added oxalyl chloride and one drop of DMF, followed by stirring at room temperature. The reaction mixture was added dropwise to an ice-cooled THF solution of concentrated aqueous ammonia and then, the whole was stirred for 30 minutes. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain 4-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]butanamide. To a dichloroethane solution of the resulting compound were added pyridine, phosphorus oxychloride and one drop of DMF, followed by stirring at room temperature. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain 4-(3-chlorophenyl)-3-(3-cyanopropyl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one. NMR1: 6.90 (1H, d, J=8.2 Hz), 4.67 (2H, q, J=7.1 Hz), 1.70-2.10 (2H, m).

reactant | 4-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]butanoic acid | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCCC(=O)O | C21H21ClN2O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 4-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]butanamide | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCCC(=O)N | C21H22ClN3O2
